US08022062B2
7-Chloro-6-dimethylthiocarbamoyloxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Place 7-chloro-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (64.3 g, 219 mmol) in acetone (450 mL) and water (200 mL) with K2CO3 (91.8 g, 664 mmol) and dimethylthiocarbamoyl chloride (31.5 g, 255 mmol). Stir at ambient temperature for 1.25 h. Add additional dimethylthiocarbamoyl chloride (3 g, 24 mmol) and stir for an additional 1.75 h at ambient temperature. Add more dimethylthiocarbamoyl chloride (0.7 g, 5.7 mmol) and water (150 mL) to the mixture and stir for 0.5 h at ambient temperature. Slowly add water (500 mL) to the reaction over 2 h to promote crystallization and stir the resulting slurry at ambient temperature for 1.5 h. Collect the solid by filtration to give the desired intermediate (76 g, 91%).

reactant | 7-chloro-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 219 mmol, 64.3 g | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)O | C12H11ClF3NO2
reactant | K2CO3 | 664 mmol, 91.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethylthiocarbamoyl chloride | 255 mmol, 31.5 g | CN(C(=S)Cl)C | C3H6ClNS
reactant | dimethylthiocarbamoyl chloride | 24 mmol, 3 g | CN(C(=S)Cl)C | C3H6ClNS
solvent | acetone | 450 mL | CC(=O)C | C3H6O
solvent | water | 200 mL | O | H2O
catalyst | dimethylthiocarbamoyl chloride | 5.7 mmol, 0.7 g | CN(C(=S)Cl)C | C3H6ClNS
solvent | water | 500 mL | O | H2O
solvent | water | 150 mL | O | H2O
product | 7-Chloro-6-dimethylthiocarbamoyloxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 76 g, 91% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OC(N(C)C)=S | C15H16ClF3N2O2S
